US06949648B2
Methyl 2,3-difluoro-6-[[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoate
A solution of 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-ylamine (6.16 g, 35.4 mmol), methyl 6-bromo-2,3-difluorobenzoate (8.11 g, 32.3 mmol), copper acetate (II) (0.49 g, 2.7 mmol) and potassium carbonate (4.46 g, 323 mmol) in N,N-dimethylformamide (30 mL) was heated under reflux for 1 hour under an argon atmosphere, and the solution was allowed to cool to room temperature and poured into water. The solution was made weakly acidic by the addition of acetic acid, and organic matter was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=10:1 to 5:1) to give the title compound (0.86 g, 8% yield).

reactant | 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-ylamine | 35.4 mmol, 6.16 g | CC1=NN(C(=C1)N)C1=NC=CC=C1 | C9H10N4
reactant | methyl 6-bromo-2,3-difluorobenzoate | 32.3 mmol, 8.11 g | BrC1=CC=C(C(=C1C(=O)OC)F)F | C8H5BrF2O2
reactant | potassium carbonate | 323 mmol, 4.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
catalyst | copper acetate | 2.7 mmol, 0.49 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 2,3-difluoro-6-[[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoate | 0.86 g, 8% yield | FC1=C(C(=O)OC)C(=CC=C1F)NC1=CC(=NN1C1=NC=CC=C1)C | C17H14F2N4O2
